US05972927
Stage 3: 9-Methoxy-1-phenyl-6,7-dihydro-3H-[1,4]diazepino[6,7,1-hi]indol-4-one.
4.71 g (18.6 mmol) of 7-benzoyl-5-methoxyindoline are introduced into 75 ml of pyridine, followed by 16.2 g (116 mmol) of ethyl glycinate hydrochloride. The mixture is heated to 110-115° C. with stirring while distilling off the light fractions which form. After 12 hours, the mixture is cooled and 100 ml of a 2.5% solution of sodium carbonate in water and 100 ml of dichloromethane are added. The aqueous phase is separated out and extracted with 100 ml of dichloromethane. The organic phases are combined and washed with water. The solvent is evaporated off and the residue is then purified by flash chromatography on a column of silica, the eluent used being a gradient of acetone in dichloromethane. 4.15 g of purified product in the form of a brown resin are obtained.

reactant | 7-benzoyl-5-methoxyindoline | 18.6 mmol, 4.71 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=C2CCNC12)OC | C16H15NO2
reactant | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl glycinate hydrochloride | 116 mmol, 16.2 g | Cl.NCC(=O)OCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 9-Methoxy-1-phenyl-6,7-dihydro-3H-[1,4]diazepino[6,7,1-hi]indol-4-one | 4.15 g, Yield=82% | COC=1N2C=3C(=CCCC3C1)C(NC=C2C2=CC=CC=C2)=O | C18H16N2O2
